US08877779B2
To a cooled (0° C.) solution of 1-(1,2,2a,3,4,5-hexahydroacenaphthylen-1-yl)piperidin-4-one (1.00 g, 3.92 mmol) and 1,2-phenylenediamine (642 mg) in dichloroethane (30 ml) were added sodium triacetoxyborohydride (1.99 g) and acetic acid (0.509 ml), and the mixture was stirred at room temperature for 19 hr. The reaction mixture was poured into water, and the mixture was neutralized with potassium carbonate, and extracted with chloroform. The extract was washed with water and saturated brine, dried over sodium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) to give N-[1-(1,2,2a,3,4,5-hexahydroacenaphthylen-1-yl)piperidin-4-yl]-benzene-1,2-diamine (1.16 g) as an oil.

reactant | 1-(1,2,2a,3,4,5-hexahydroacenaphthylen-1-yl)piperidin-4-one | 3.92 mmol, 1.00 g | C1(CC2CCCC3=CC=CC1=C23)N2CCC(CC2)=O | C17H21NO
reactant | 1,2-phenylenediamine | 642 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sodium triacetoxyborohydride | 1.99 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
solvent | acetic acid | 0.509 ml | C(C)(=O)O | C2H4O2
product | N-[1-(1,2,2a,3,4,5-hexahydroacenaphthylen-1-yl)piperidin-4-yl]-benzene-1,2-diamine | 1.16 g | C1(CC2CCCC3=CC=CC1=C23)N2CCC(CC2)NC=2C(=CC=CC2)N | C23H29N3
